US04962096
2-Benzyloxy-3-hexadecyloxypropyl 1,1-dimethylpyrrolidinio-2-ylmethyl phosphate
In 3 ml of chloroform was dissolved 0.12 ml of phosphorus oxychloride and 0.35 ml of triethylamine under nitrogen atmosphere, and the resulting solution was stirred for a while at room temperature. To the solution was dropwise added under chilling 3 ml of a solution of 407 mg of 2-benzyloxy-3-hexadecyloxy-1-propanol in chloroform. After the addition was complete, the mixture was stirred for 30 minutes at room temperature, and to the mixture were added 452 mg of 1,1-dimethyl-2-hydroxymethylpyrrolidinium p-toluenesulfonate prepared in Reference Example 3 and 10 ml of dry pyridine. The mixture was stirred overnight at room temperature, and 560 mg of sodium hydrogencarbonate and 1.25 ml of water. The solvent was then distilled off under reduced pressure. To the residue was added 15 ml of a mixture of toluene and methylene chloride (v/v=1/1), and insolubles were filtered off. The filtrate was concentrated under reduced pressure, and the resulting residue was dissolved in a mixture of tetrahydrofuran and water (v/v=95/5). The solution was passed through a column of ion-exchange resin (Amberlite MB-3), which was then eluated with the same mixture of tetrahydrofuran and water. The eluate was placed under reduced pressure to distill off the solvent. The residue was purified by column chromatography using silica gel (eluent: chloroform/methanol/water=70/30/5) to obtain 212 mg of the desired compound.

reactant | 2-benzyloxy-3-hexadecyloxy-1-propanol | 407 mg | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCC | C26H46O3
reactant | 1,1-dimethyl-2-hydroxymethylpyrrolidinium p-toluenesulfonate | 452 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1(C(CCC1)CO)C
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogencarbonate | 560 mg | C(O)([O-])=O.[Na+]
reactant | phosphorus oxychloride | 0.12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | water | 1.25 ml | O | H2O
product | 2-Benzyloxy-3-hexadecyloxypropyl 1,1-dimethylpyrrolidinio-2-ylmethyl phosphate | 212 mg | P(=O)(OCC(COCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)(OC=C1[N+](CCC1)(C)C)[O-] | C33H58NO6P
